US06825170B2
Step B: 2-[4-(2,5-Dihydro-2,5-dimethoxy-3-furanyl)phenyl]pyrimidine
To a slurry of 3-[4-(pyrimidin-2-yl)phenyl]furan and Na2CO3 (46 mg, 0.44 mmol) in methanol (0.8 mL) and benzene (0.8 mL) at −10° C. was added bromine (22 μL, 0.41 mmol) dropwise. The reaction mixture was stirred at −10° C. for 1 h, diluted with ethyl acetate, filtered, and concentrated in vacuo. Purification by medium pressure liquid chromatography (SiO2, 2:1 hexanes/ethyl acetate) gave 95 mg (75%) of the title compound. MS 285 (M+H)+.

reactant | 3-[4-(pyrimidin-2-yl)phenyl]furan | N1=C(N=CC=C1)C1=CC=C(C=C1)C1=COC=C1 | C14H10N2O
reactant | Na2CO3 | 0.44 mmol, 46 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 0.41 mmol, 22 μL | BrBr | Br2
reactant | methanol | 0.8 mL | CO | CH4O
solvent | benzene | 0.8 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(2,5-Dihydro-2,5-dimethoxy-3-furanyl)phenyl]pyrimidine | 95 mg, 75% | COC1OC(C=C1C1=CC=C(C=C1)C1=NC=CC=N1)OC | C16H16N2O3
